US07094594B2
(3R,5S)-6-benzoyloxy-3,5-dihydroxyhexanoic tert-butyl ester
A large test tube was charged with 5 ml of Medium A described hereinbefore and, after sterilization, inoculated with one of the microorganisms indicated in Table 1 and Table 2. Aerobic shake culture was carried out at 27° C. for 2 to 3 days. From a 1.5 ml portion of the resulting culture, the cells were harvested by centrifugation and suspended in 0.5 ml of 100 mM phosphate buffer (pH 6.5) containing 0.05% of (5S)-6-benzoyloxy-5-hydroxy-3-oxohexanoic tert-butyl ester and 8% of glucose. The suspension was put in a test tube equipped with a threaded stopper and the reaction was carried out under shaking at 27° C. for 20 hours. After the reaction, 4 volumes of ethyl acetate were added to the reaction mixture and after thorough mixing, the cells were centrifugally removed. The supernatant was analyzed by high-performance liquid chromatography for the amount of (3R,5S)-6-benzoyloxy-3,5-dihydroxyhexanoic tert-butyl ester produced per ml of the reaction mixture and the diastereomer ratio (=(3R,5S)/(3S,5S) ratio). The results are shown in Table 1 and Table 2.

reactant | (5S)-6-benzoyloxy-5-hydroxy-3-oxohexanoic tert-butyl ester | C(C)(C)(C)OC(CC(C[C@@H](COC(C1=CC=CC=C1)=O)O)=O)=O | C17H22O6
reactant | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | phosphate | 100 mM, 0.5 ml, pH 6.5 | P(=O)([O-])([O-])[O-]
product | (3R,5S)-6-benzoyloxy-3,5-dihydroxyhexanoic tert-butyl ester | C(C)(C)(C)OC(C[C@@H](C[C@@H](COC(C1=CC=CC=C1)=O)O)O)=O | C17H24O6
